US07329658B2
Preparation of Intermediate 4-Chloro-7-(2-chlorophenyl)-8-(4-chlorophenyl)-2-methylpyrazolo[1,5-a][1,3,5]triazine (I-2A-1b)
To a stirred slurry of 7-(2-chlorophenyl)-8-(4-chlorophenyl)-2-methyl-3H-pyrazolo[1,5-a][1,3,5]triazin-4-one (I-2A-1a; 30.0 g, 80.8 mmol) in toluene (400 ml) at room temperature was added diisopropylethylamine (30.3 ml, 173 mmol) and then POCl3 (15.9 ml, 168 mmol) over 10 minutes. The mixture was heated at 80° C. for 5 hours, cooled to room temperature, and then slowly quenched by slow addition to half saturated brine (300 ml). The biphasic mixture was flitered through Celite® to remove the brown solids that formed on quench. The organic layer was separated and washed with saturated aqueous NaHCO3 (200 ml) and then brine (200 ml). The organic solution was concentrated, in vacuo, to ½ volume and then filtered through a cotton plug. The solution was further concentrated to ¼ volume, at which point, a yellow solid began to precipitate. Hexane (300 ml) was then added and stirred for 1 hour. The solids were collected on a sintered glass funnel and dried, in vacuo, to afford the desired product I-2A-1b (22.3 g, 71%) as a dark-yellow solid: +APcI MS (M+1) 389.1; 1H NMR (400 MHz, CD2Cl2) δ 7.50-7.39 (m, 6H), 7.28 (d, J=8.7 Hz, 2H), 2.73 (s, 3H).

reactant | 7-(2-chlorophenyl)-8-(4-chlorophenyl)-2-methyl-3H-pyrazolo[1,5-a][1,3,5]triazin-4-one | 80.8 mmol, 30.0 g | ClC1=C(C=CC=C1)C1=NN2C(N=C(NC2=O)C)=C1C1=CC=C(C=C1)Cl | C18H12Cl2N4O
reactant | diisopropylethylamine | 173 mmol, 30.3 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | POCl3 | 168 mmol, 15.9 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Chloro-7-(2-chlorophenyl)-8-(4-chlorophenyl)-2-methylpyrazolo[1,5-a][1,3,5]triazine | ClC1=NC(=NC=2N1N=C(C2C2=CC=C(C=C2)Cl)C2=C(C=CC=C2)Cl)C | C18H11Cl3N4
